US06096743
1.16-1.47 (3H, m), 4.04 (2H, d, J=5.3 Hz) 4.16-4.45 (2H, m), 6.47 (1H, d, J=11.1 Hz), 8.25-8.67 (2H, m). 2) By using 0.66 g of N-(4-chloro-5-fluoro-2-nitrophenyl)glycine ethyl ester, 162 mg of imidazole and 4 ml of pyridine, 0.44 g (57%) of N-[4-chloro-5-(1H-imidazol-1-yl)-2-nitrophenyl]glycine ethyl ester was obtained.

reactant | N-(4-chloro-5-fluoro-2-nitrophenyl)glycine ethyl ester | 0.66 g | C(C)OC(CNC1=C(C=C(C(=C1)F)Cl)[N+](=O)[O-])=O | C10H10ClFN2O4
reactant | imidazole | 162 mg | N1C=NC=C1 | C3H4N2
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | N-[4-chloro-5-(1H-imidazol-1-yl)-2-nitrophenyl]glycine ethyl ester | 0.44 g, 57% | C(C)OC(CNC1=C(C=C(C(=C1)N1C=NC=C1)Cl)[N+](=O)[O-])=O | C13H13ClN4O4
